US07262201B1
Using a procedure analogous to that described in Example 34, 4-chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline (150 mg, 0.45 mol) was reacted with 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (105 mg, 0.54 mol), (prepared as described for the starting material in Example 10), to give 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline (220 mg, 91%).

reactant | 4-chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline | 0.45 mol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCS(=O)(=O)C | C13H15ClN2O4S
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 0.54 mol, 105 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
product | 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline | 220 mg, 91% | COC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCS(=O)(=O)C | C23H24N4O6S
